US07713994B2
An amount of 1 g (5.57 mmol) of 4-chloro-3-hydroxy benzoic acid is added 10 ml (115.8 mmol) of oxalyl chloride and refluxed at 60° C. till the solid had gone into solution. After cooling, the mixture is evaporated to dryness to give 4-chloro-3-hydroxy-benzoyl chloride.

reactant | 4-chloro-3-hydroxy benzoic acid | 5.57 mmol, 1 g | ClC1=C(C=C(C(=O)O)C=C1)O | C7H5ClO3
reactant | oxalyl chloride | 115.8 mmol, 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 4-chloro-3-hydroxy-benzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)O | C7H4Cl2O2
